US20010056188A1
3-(3, 5-Bis(trifluoromethyl)phenyamino)-2-isopropylsulfonyl-3-cyclopentylamino- 2-propenenitrile
3-(3,5-Bis(trifluoromethyl)phenylamino)-2-isopropysulfonyl-3-methylsulfanyl-2-propenenitrile (0.500 g, 1.16 mmol) was stirred in cyclopentylamine (2 ml) for 24 h at 80° C. under nitrogen in a sealed flask. Work up as described in Example 40, 2) gave 540 mg (99%) of the title compound as white crystals. Mp 172-173° C. 1H NMR (200 MHz, CDCl3): δ=1.41 (d, 6H), 1.40-1.57 (m, 4H), 1.74-1.93 (m, 4H), 3.25 (heptet, 1H), 3.56 (m, 1H), 7.54 (s, 2H), 7.67 (s, 1H), 7.94 (br s, 1H), 9.22 (br s, 1H)

reactant | 3-(3,5-Bis(trifluoromethyl)phenylamino)-2-isopropysulfonyl-3-methylsulfanyl-2-propenenitrile | 1.16 mmol, 0.500 g | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=C(C#N)S(=O)(=O)C(C)C)SC)(F)F | C15H14F6N2O2S2
reactant | cyclopentylamine | 2 ml | C1(CCCC1)N | C5H11N
product | 3-(3, 5-Bis(trifluoromethyl)phenyamino)-2-isopropylsulfonyl-3-cyclopentylamino- 2-propenenitrile | 540 mg, 99% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=C(C#N)S(=O)(=O)C(C)C)NC1CCCC1)(F)F | C19H21F6N3O2S
